US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 17, using 2.14 g (9.99 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide prepared in the same manner as in Reference Example 2 and 2-thiophenecarboxylic acid instead of 3-pyridylacetic acid hydrochloride to obtain 1.97 g of 1-benzyl-4-(2-thienylcarbonylamino)-5-imidazolecarboxamide (yield 60%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 9.99 mmol, 2.14 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 2-thiophenecarboxylic acid | S1C(=CC=C1)C(=O)O | C5H4O2S
product | 1-benzyl-4-(2-thienylcarbonylamino)-5-imidazolecarboxamide | 1.97 g, yield 60% | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(=O)C=1SC=CC1 | C16H14N4O2S
